US05260316
Treatment of 6-(2-methyl-2-propenyloxy)-2-(3-phenylpropyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline with ozone under conditions of ozonolysis described in example 1 yields 6-(2-oxopropyloxy)-2-(3-phenylpropyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline.

reactant | 6-(2-methyl-2-propenyloxy)-2-(3-phenylpropyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline | CC(COC=1C=C2CCN(C(C2=CC1)=O)CCCC1=CC=CC=C1)=C | C22H25NO2
reactant | ozone | O=[O+][O-] | O3
product | 6-(2-oxopropyloxy)-2-(3-phenylpropyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline | O=C(COC=1C=C2CCN(C(C2=CC1)=O)CCCC1=CC=CC=C1)C | C21H23NO3
